US08067362B2
Step 5: 4-(14-tert-Butoxycarbonyl-tetradecyloxy)-isophthalic acid 3-tert-butyl ester 1-methyl ester
15-Bromo-pentadecanoic acid tert-butyl ester (598 mg, 1.59 mmol), 4-hydroxy isophthalic acid 3-tert-butyl ester 1-methyl ester (400 mg, 1.59 mmol) and K2CO3 (329 mg, 2.38 mmol) were placed in a flask with acetonitrile (25 ml) and refluxed under N2. The reaction was followed via TLC (4:1 heptane/AcOEt). After 13 h the sample was concentrated under vacuum to near dryness. AcOEt (50 ml) and water (25 ml) were added to the residue. The phases were separated and the organic phase was washed with water and brine (25 ml each), dried over MgSO4 and concentrated to yield an oil (841 mg, 97%).

reactant | 15-Bromo-pentadecanoic acid tert-butyl ester | 1.59 mmol, 598 mg | C(C)(C)(C)OC(CCCCCCCCCCCCCCBr)=O | C19H37BrO2
reactant | 4-hydroxy isophthalic acid 3-tert-butyl ester 1-methyl ester | 1.59 mmol, 400 mg | COC(C1=CC(C(=O)OC(C)(C)C)=C(C=C1)O)=O | C13H16O5
reactant | K2CO3 | 2.38 mmol, 329 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | heptane AcOEt | CCCCCCC.CCOC(=O)C
product | 4-(14-tert-Butoxycarbonyl-tetradecyloxy)-isophthalic acid 3-tert-butyl ester 1-methyl ester | 841 mg, 97% | COC(C1=CC(C(=O)OC(C)(C)C)=C(C=C1)OCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C32H52O7
